US07759376B2
Step 3. Preparation of methyl N-[(4′-amino-3-chlorobiphenyl-4-yl)carbonyl]-L-valinate
Iron powder (0.44 g, 7.8 mmol) was added to a solution of methyl N-[(3-chloro-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate (0.30 g, 0.78 mmol) in ethanol (10 mL). Concentrated HCl (0.39 mL, 0.78 mmol) was added, and the mixture was heated at reflux for 3 h. Upon cooling to rt, the mixture was filtered through a pad of Celite®, and the filtrate was concentrated in vacuo. The material was purified by column chromatography (33% EtOAc in hexanes), yielding 0.25 g (89%) of the title compound. LC/MS m/z/z 361.2 (MH+), retention time 2.36 min. 1H NMR (400 MHz, CD2Cl2) δ 1.06 (dd, 6H), 2.32-2.39 (m, 1H), 3.80 (s, 3H), 4.71-4.78 (m, 1H), 6.82 (d, 3H), 7.40-7.74 (m, 5H).

reactant | methyl N-[(3-chloro-4′-nitrobiphenyl-4-yl)carbonyl]-L-valinate | 0.78 mmol, 0.30 g | ClC=1C=C(C=CC1C(=O)N[C@@H](C(C)C)C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C19H19ClN2O5
reactant | HCl | 0.78 mmol, 0.39 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Iron | 7.8 mmol, 0.44 g | [Fe] | Fe
product | methyl N-[(4′-amino-3-chlorobiphenyl-4-yl)carbonyl]-L-valinate | 0.25 g, 89% | NC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)N[C@@H](C(C)C)C(=O)OC)Cl | C19H21ClN2O3
